US04707473
Sodium methoxide (82 mg) is added to a solution of phenoxazine 4,6-dicarboxylic acid in methanol (5 ml). The solution is then evaporated to dryness to afford phenoxazine 4,6-dicarboxylic acid sodium salt. This compound may be converted to salts such as potassium, lithium, ammonium, calcium, magnesium, ferrous, zinc, copper, manganous, aluminum, ferric, manganic salts and the like using similar methods.

reactant | Sodium methoxide | 82 mg | C[O-].[Na+]
reactant | phenoxazine 4,6-dicarboxylic acid | C1=CC=C(C=2OC=3C(=CC=CC3NC12)C(=O)O)C(=O)O | C14H9NO5
solvent | methanol | 5 ml | CO | CH4O
product | phenoxazine 4,6-dicarboxylic acid sodium salt | [Na+].C1=CC=C(C=2OC=3C(=CC=CC3NC12)C(=O)[O-])C(=O)[O-].[Na+] | InChI=1S/C14H9NO5.2Na/c16-13(17)7-3-1-5-9-11(7)20-12-8(14(18)19)4-2-6-10(12)15-9;;/h1-6,15H,(H,16,17)(H,18,19);;/q;2*+1/p-2
